US08048884B2
Preparation 10: {2-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-carbamic acid tert-butyl ester
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (2.5 g, 9.7 mmol, 1 eq.) in 1,2 dichloroethane (20 mL). Add methyl-(2-oxo-ethyl)-carbamic acid tert-butyl ester (1.77 g, 10.19 mmol, 1.05 eq.). Add sodium triacetoxy-borohydride (3.10 g, 14.6 mmol, 1.5 eq.). Stir at room temperature for 18 hr. Partition the reaction mixture between aqueous saturated NaHCO3 and dichloromethane. Separate the layers. Extract the organic layer with dichloromethane (2×100 mL). Combine the organic layers, dry over anhydrous Na2SO4, filter and concentrate. Purify by normal phase chromatography with 30% EtOAc/hexane—100% EtOAc to afford the title preparation (3.8 g, 97% yield). MS (loop): m/z=416.3 [M+H].

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 9.7 mmol, 2.5 g, 1 eq. | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | methyl-(2-oxo-ethyl)-carbamic acid tert-butyl ester | 10.19 mmol, 1.77 g, 1.05 eq. | C(C)(C)(C)OC(N(CC=O)C)=O | C8H15NO3
reactant | sodium triacetoxy-borohydride | 14.6 mmol, 3.10 g, 1.5 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2 dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | {2-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-carbamic acid tert-butyl ester | 97% yield | C(C)(C)(C)OC(N(C)CCN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F)=O | C22H30FN5O2
